US04451285
A mixture containing a portion of the 6-methyl-2-[2-(2-methoxyethoxy)ethoxy]-N-2-methylethyl aniline (5.34 g; 0.02 mole) and sodium hydroxide (0.88 g; 0.22 mole) in 150 ml. of methylene chloride was cooled to 10° C. To the reaction mixture was added dropwise chloroacetyl chloride (2.5 g; 0.022 mole) and the resulting mixture was stirred for 10 minutes. The layers were separated and the organic methylene chloride layer was washed with water, dried over magnesium sulfate and concentrated in vacuo to yield a crude product. The crude product was separated on a silica gel column using a 2:5 ethyl acetate:cyclohexane mixture as the eluant to yield 2-chloro-N-2-methylethyl-N-[6-methyl-2-(2-(2-methoxyethoxy)ethoxy)phenyl]acetamide (Compound No. 102) (2.7 g; 39% yield) as a clear yellow oil having a boiling point of 163° C. (0.13 mmHg) and the following analysis:

reactant | 6-methyl-2-[2-(2-methoxyethoxy)ethoxy]-N-2-methylethyl aniline | 0.02 mole, 5.34 g | CC1=CC=CC(=C1NCCC)OCCOCCOC | C15H25NO3
reactant | sodium hydroxide | 0.22 mole, 0.88 g | [OH-].[Na+]
reactant | chloroacetyl chloride | 0.022 mole, 2.5 g | ClCC(=O)Cl | C2H2Cl2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-chloro-N-2-methylethyl-N-[6-methyl-2-(2-(2-methoxyethoxy)ethoxy)phenyl]acetamide | 39% yield | ClCC(=O)N(C1=C(C=CC=C1C)OCCOCCOC)CCC | C17H26ClNO4
